US05519051
53 mg of 3β-hydroxy-16-oxaandrost-5-en-17-one was dissolved in 2.4 ml of acetone and the solution was cooled with ice. 60 μl of Jones reagent was added dropwise to this solution under ice cooling and stirring, and the mixture was stirred for 15 minutes. 2-propanol was added to the reaction mixture and the insoluble matters were removed by filtration. The filtrate was concentrated, water was added and the mixture was extracted with ethyl acetate. The extract was washed with 5% aqueous sodium bicarbonate solution, water and saturated saline, and dried over anhydrous magnesium sulfate. The solvent was distilled out, and the resultant crude product was purified by TLC [developing solvent; chloroform: acetone (19:1)] to obtain 9 mg of 16-oxaandrost-4-ene-3,6,17-trione.

reactant | 3β-hydroxy-16-oxaandrost-5-en-17-one | 53 mg | O[C@@H]1CC2=CC[C@H]3[C@@H]4COC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C18H26O3
reactant | Jones reagent | 60 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-propanol | CC(C)O | C3H8O
solvent | acetone | 2.4 ml | CC(=O)C | C3H6O
product | 16-oxaandrost-4-ene-3,6,17-trione | 9 mg | C[C@@]12C(OC[C@H]1[C@@H]1CC(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O)=O | C18H22O4
